US08466289B2
Synthesis of Intermediate 7-(2-Fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one (I-5a)
HBr in acetic acid (30 mL) was added to 1-benzyl-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one (I-3b: 2.5 g) and the resulting mixture was stirred at room temperature for 2 hours. The reaction was monitored by TLC (100% ethylacetate). The reaction mixture was basified with NaHCO3 solution and partitioned between ice water and ethyl acetate. The organic layer was concentrated to afford the crude product. Purification by column chromatography on silica gel (60% ethylacetate in hexane) afforded 1.5 g of the product (75% yield).

reactant | HBr | Br | BrH
reactant | 1-benzyl-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | 2.5 g | C(C1=CC=CC=C1)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)I)F)[N+](=O)[O-] | C21H18FIN4O3
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 7-(2-Fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | 1.5 g, 75% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCN2)[N+](=O)[O-] | C14H12FIN4O3
